US08304443B2
Ethyl6-hydroxy-1-(tetrahydro-2H-pyran-2-yl)-indazole-3-carboxylate
Ethyl6-(tert-butyldiphenylsilyloxy)-1-(tetrahydro-2H-pyran-2-yl)-indazole-3-carboxylate (1.299 g) which can be prepared according to the method described in Reference example 19, etc. was dissolved in dehydrated THF (12.3 mL; manufactured by Kanto Chemical Co., Inc.), added with 1 mol/L-TBAF-THF solution (3.69 mL; manufactured by Sigma-Aldrich Co.), followed by stirring for 2 hours at room temperature under nitrogen atmosphere. The reaction solution was added with ethyl acetate, washed three times with brine, and dried over anhydrous magnesium sulfate. After the solvent was evaporated under reduced pressure, the residue was purified by column chromatography “COLUMN-A”; n-hexane:ethyl acetate=100:0→81:19) to obtain the title compound (0.660 g).

reactant | Ethyl6-(tert-butyldiphenylsilyloxy)-1-(tetrahydro-2H-pyran-2-yl)-indazole-3-carboxylate | 1.299 g | C(C)OC(=O)C1=NN(C2=CC(=CC=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C1OCCCC1 | C31H36N2O4Si
reactant | TBAF THF | 3.69 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-].C1CCOC1
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 12.3 mL | C1CCOC1 | C4H8O
product | Ethyl6-hydroxy-1-(tetrahydro-2H-pyran-2-yl)-indazole-3-carboxylate | 0.660 g | C(C)OC(=O)C1=NN(C2=CC(=CC=C12)O)C1OCCCC1 | C15H18N2O4
